US04838924
3-Benzyloxyphenol (5.0 g), 2.0 g of isobutyraldehyde, 0.1 g of methanesulfonic acid and 50 ml of toluene were put into a flask equipped with the Dean-Stark condenser, and stirred under reflux for 4 hours. Low-boiling compounds were evaporated under reduced pressure. The residue was purified by column chromatography to give 3.8 g of 6-benzyloxy-2,3-dihydro-2,2-dimethylbenzofuran as a brown liquid. This product was dissolved in ethanol, and 0.4 g of 5% palladium-carbon was added. The mixture was stirred at room temperature for 8 hours in an atmosphere of hydrogen. The catalyst was separated by filtration, and the filtrate was concentrated. The residue was purified by column chromatography to give 2.0 g (yield 50%) of the desired product as a pale yellow liquid.

reactant | 3-Benzyloxyphenol | 5.0 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)O | C13H12O2
reactant | isobutyraldehyde | 2.0 g | C(C(C)C)=O | C4H8O
catalyst | methanesulfonic acid | 0.1 g | CS(=O)(=O)O | CH4O3S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 6-benzyloxy-2,3-dihydro-2,2-dimethylbenzofuran | 3.8 g | C(C1=CC=CC=C1)OC1=CC2=C(CC(O2)(C)C)C=C1 | C17H18O2
